US09079919B2
A mixture of 2-((R)-1-amino-6-nitro-indan-1-yl)-2,2-difluoro-ethanol (intermediate A5.6), (1.6 g, 6.2 mmol) and sodium acetate (1.54 g, 18.6 mmol) in ethanol (30 ml) was warmed to 40° C. The mixture was then treated with cyanogen bromide (724 mg, 6.82 mmol) and allowed to stir at 40° C. for 16 hours. Removal of the solvent at reduced pressure followed by purification of the resultant crude material by column chromatography on silica gel using a 3:2-mixture of hexane and ethyl acetate as the eluent yielded the (R)-1-(1,1-difluoro-2-hydroxy-ethyl)-6-nitro-indan-1-yl-cyanamide (800 mg, 42% yield) as colorless sticky solid. MS (ISP): m/z=284.0 [M+H]+.

reactant | 2-((R)-1-amino-6-nitro-indan-1-yl)-2,2-difluoro-ethanol | 6.2 mmol, 1.6 g | N[C@@]1(CCC2=CC=C(C=C12)[N+](=O)[O-])C(CO)(F)F | C11H12F2N2O3
reactant | sodium acetate | 18.6 mmol, 1.54 g | C(C)(=O)[O-].[Na+]
reactant | cyanogen bromide | 6.82 mmol, 724 mg | N#CBr | CBrN
reactant | hexane | CCCCCC | C6H14
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-1-(1,1-difluoro-2-hydroxy-ethyl)-6-nitro-indan-1-yl-cyanamide | 800 mg, 42% yield | FC(CO)(F)[C@]1(CCC2=CC=C(C=C12)[N+](=O)[O-])NC#N | C12H11F2N3O3
